US05854264
Step C: 4-(Pyrid-2-yl)benzyl alcohol
To a solution of 4-(pyrid-2-yl)benzoic acid(1.01 g, 5.09 mmol) in tetrahydrofuran (15 mL) at 0° C. was added 1.0M lithium aluminum hydride in tetrahydrofuran (5.09 mL, 5.09 mmol) over 10 minutes. The reaction was allowed to stir at ambient temperature for 3 hours, cooled to 0° C., and quenched by dropwise addition of water (0.25 mL), 4N aq. NaOH (0.25 mL), and water (0.75 mL). The reaction was filtered through a pad of Celite and the filtrate evaporated in vacuo. The residue was chromatographed (silica gel, 4-8% MeOH in CH2Cl2) to afford the title compound.

reactant | 4-(pyrid-2-yl)benzoic acid | 5.09 mmol, 1.01 g | N1=C(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.09 mmol, 5.09 mL | O1CCCC1 | C4H8O
product | 4-(Pyrid-2-yl)benzyl alcohol | N1=C(C=CC=C1)C1=CC=C(CO)C=C1 | C12H11NO
